US07700589B2
83b) ethyl 3-(3,4-dimethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionate
10.0 g (57.9 mmol) CDT were added to the solution of 11.0 g (49.7 mmol) ethyl 2-amino-3-(3,4-dimethyl-phenyl)-propionate in 250 mL THF cooled in the ice bath, stirred for 1 h while cooling with an ice bath and for 1 h at RT. Then 12.7 g (54.7 mmol) 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one was added, the reaction mixture was refluxed for 2.5 h and evaporated down under reduced pressure. The residue was distributed between saturated NaHCO3 solution and EtOAc and the aqueous phase was extracted twice more with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated down under reduced pressure.

reactant | ethyl 2-amino-3-(3,4-dimethyl-phenyl)-propionate | 49.7 mmol, 11.0 g | NC(C(=O)OCC)CC1=CC(=C(C=C1)C)C | C13H19NO2
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 54.7 mmol, 12.7 g | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
reactant | THF | 250 mL | C1CCOC1 | C4H8O
product | ethyl 3-(3,4-dimethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionate | CC=1C=C(C=CC1C)CC(C(=O)OCC)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C27H34N4O4
